US07645789B2
The solution of 1-[4-hydroxy-3-(1-hydroxyimino-ethyl)-phenyl]-cyclopropanecarboxylic methyl ester (10.0 g, 40.1 mmol) in Ac2O (250 mL) was heated at 45° C. for 4 h. The Ac2O was removed by evaporation under vacuum before water (100 mL) and EtOAc (100 mL) were added. The organic layer was separated and the aqueous layer was extracted with EtOAc (100 mL×2). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give (E)-methyl 1-(3-(1-(acetoxyimino)ethyl)-4-hydroxyphenyl)cyclopropanecarboxylate (10.5 g, 99%), which was used in the next step without further purification.

reactant | 1-[4-hydroxy-3-(1-hydroxyimino-ethyl)-phenyl]-cyclopropanecarboxylic methyl ester | 40.1 mmol, 10.0 g | COC(=O)C1(CC1)C1=CC(=C(C=C1)O)C(C)=NO | C13H15NO4
reactant | Ac2O | 250 mL | CC(=O)OC(=O)C | C4H6O3
product | (E)-methyl 1-(3-(1-(acetoxyimino)ethyl)-4-hydroxyphenyl)cyclopropanecarboxylate | 10.5 g, 99% | C(C)(=O)O\N=C(/C)\C=1C=C(C=CC1O)C1(CC1)C(=O)OC | C15H17NO5
